US06232290B1
To a solution of piperidine (2.98 g) and methyl 6-chloronicotinate (5.00 g) in N,N-dimethylformamide (75 ml) was added potassium carbonate (12.08 g). The mixture was stirred at 100° C. for 3 hours. After cooling to ambient temperature, to the reaction mixture was added water (100 ml) and then the mixture was stirred for 15 minutes at ambient temperature. The resulting precipitates were filtered, washed with water, and dried to give methyl 6-(1-piperidyl)nicotinate (5.55 g), as a white solid.

reactant | piperidine | 2.98 g | N1CCCCC1 | C5H11N
reactant | methyl 6-chloronicotinate | 5.00 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | potassium carbonate | 12.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | methyl 6-(1-piperidyl)nicotinate | 5.55 g | N1(CCCCC1)C1=NC=C(C(=O)OC)C=C1 | C12H16N2O2
